2187-05-16 07:14:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2187-5-15**] 11:57 PM
 INVASIVE VENTILATION - START [**2187-5-16**] 12:11 AM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2187-5-16**] 02:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-5-16**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 72 (66 - 74) bpm
   BP: 146/67(85) {124/58(76) - 150/81(95)} mmHg
   RR: 16 (12 - 18) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
             64 mL
   PO:
             TF:
   IVF:
   64 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    923 mL
   Urine:
   923 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -859 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 6.1 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   162 K/uL
   10.7 g/dL
   100 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.1 mEq/L
   15 mg/dL
   111 mEq/L
   141 mEq/L
   32.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2187-5-16**]  03:12 AM
   WBC
   8.3
   Hct
   32.6
   Plt
   162
   Cr
   0.7
   TropT
   <0.01
   Glucose
   100
   Other labs: PT / PTT / INR:13.4/25.7/1.1, CK / CKMB /
   Troponin-T:335/8/<0.01, ALT / AST:14/26, Alk Phos / T Bili:64/0.3,
   Albumin:3.6 g/dL, LDH:260 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-5-15**] 11:57 PM
   18 Gauge - [**2187-5-15**] 11:59 PM
   20 Gauge - [**2187-5-15**] 11:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-05-16 09:49:00 Physician Attending Progress Note
Chief Complaint: unresponsiveness/bradycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo F w/ bipolar d/o and prior suicide attempt 25 yrs ago presented
   unresponsiveness with bradycardia in setting of drug overdose (benzos
   and opiate + tox)
   24 Hour Events:
 MULTI LUMEN - START [**2187-5-15**] 11:57 PM
 INVASIVE VENTILATION - START [**2187-5-16**] 12:11 AM
   tox screen + for benzos, opiates
   charcoal in ed/ levo zosyn for asp pna
   alert/awake on vent
   apneic on PSV so rested on ACV
   6 sec/2 sec ainus pause on tele
   extubated this am pre-rounds
   History obtained from [**Hospital 85**] Medical records, house staff
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Fentanyl - [**2187-5-16**] 02:44 AM
   Heparin Sodium (Prophylaxis) - [**2187-5-16**] 08:00 AM
   Pantoprazole (Protonix) - [**2187-5-16**] 08:11 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-5-16**] 09:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 77 (66 - 77) bpm
   BP: 133/110(115) {124/58(76) - 150/110(115)} mmHg
   RR: 21 (12 - 21) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
             97 mL
   PO:
             TF:
   IVF:
   97 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,043 mL
   Urine:
   1,043 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -946 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 0 cmH2O
   FiO2: 100%
   RSBI: 27
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   SpO2: 86%
   ABG: ///24/
   Ve: 6.5 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, Pupils dilated, assymetric, minimally
   reactive
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, myoclonic jerks, nonfocal exam
   Labs / Radiology
   10.7 g/dL
   162 K/uL
   100 mg/dL
   0.7 mg/dL
   24 mEq/L
   4.1 mEq/L
   15 mg/dL
   111 mEq/L
   141 mEq/L
   32.6 %
   8.3 K/uL
        [image002.jpg]
                             [**2187-5-16**]  03:12 AM
   WBC
   8.3
   Hct
   32.6
   Plt
   162
   Cr
   0.7
   TropT
   <0.01
   Glucose
   100
   Other labs: PT / PTT / INR:13.4/25.7/1.1, CK / CKMB /
   Troponin-T:335/8/<0.01, ALT / AST:14/26, Alk Phos / T Bili:64/0.3,
   Albumin:3.6 g/dL, LDH:260 IU/L, Ca++:7.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Imaging: RML infilatrate, low lung volumes
   Assessment and Plan
   54 yo F w/ bipolar d/o and prior suicide attempt 25 yrs ago presents
   with unresponsiveness with bradycardia in setting of drug overdose
   (benzos and opiate + tox)
   # Drug overdose
   tox screen positive for benzo and opiate which patient does take at
   home and may have mistaken
   bradycardia which was observed enroute to the ER and 2 short sinus
   pauses seen on teleovernight, though not clearly  [**2-3**] ingestions given
   tox results ( if >100 would consider bicarb gtt for TCA toxicity)
   - follow qrs by ecg, tele montioring
   - repeat LFTs remain wnl  (typlenol level neg)
   - verify meds with out pt pharmacy and home psych
   - psych consult given ? SI though pt denies / suicide precautions,
   sitter
   - monitor for withdrawal symtpoms (chronic benzo use and opiate use)
   Family denies etoh hx
   # Bradycardia
 Unclear how bradycardic patient was enroute to ER.  On
   presentation to the ICU, she had two episodes of pause on tele lasting
   2.5 sec and 5.9 sec.  No clear history of any nodal [**Doctor Last Name **] ingestion.
   She may have sinus dysfunction at baseline and may be having pauses
   with increased vagal tone during sleep.
   - repeat ECG to eval for inferior MI
   - one more set of CEs in AM.
   # respiratory failure-- intubated in the ER for airway protection,
   unclear if she aspirated during charcoal administration.
   Extubated on rounds
   # aspiration
af with stable o2 sats on RA
   - Will withhold antibiotics for now and monitor clinically if spikes a
   temp or has other signs or symptoms of aspiration would cover for
   aspiration PNA.
   # FEN
 progress diet
   ICU Care
   Nutrition: progress diet
   Glycemic Control:  SSI
   Lines:
   Multi Lumen - [**2187-5-15**] 11:57 PM
   18 Gauge - [**2187-5-15**] 11:59 PM
   20 Gauge - [**2187-5-15**] 11:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2187-05-17 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2187-5-16**] 08:00 AM
 INVASIVE VENTILATION - STOP [**2187-5-16**] 09:00 AM
   .
   -Psych came by, they clarified her two med lists from two different
   pharmacies and left a list in the chart.  They are recommending a 1:1
   sitter, holding all psych meds for now, using only haldol 2.5mg IV
   q2-4h prn agitation.  If her mental status does not clear in 24hrs,
   they are recommending a head CT.  She will likely need inpatient psych
   admission once medically stable.
   -The number where her PCP may be able to be reached is 1-[**0-0-**]
   (Network health) to find out who is prescribing which meds
   -She is normally on atenolol as outpt, but avoided beta blockade in the
   setting of sinus pauses, tried captopril and norvasc po for HTN
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-5-16**] 08:11 AM
   Heparin Sodium (Prophylaxis) - [**2187-5-16**] 02:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: +sore throat
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema
   Respiratory: No(t) Cough, No(t) Dyspnea
   Flowsheet Data as of  [**2187-5-17**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 36.3
C (97.3
   HR: 68 (63 - 81) bpm
   BP: 186/109(130) {133/73(87) - 186/110(130)} mmHg
   RR: 15 (11 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    595 mL
                                                                    603 mL
   PO:
                                                                    220 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    375 mL
                                                                    483 mL
   Blood products:
   Total out:
                                                                  1,348 mL
                                                                    340 mL
   Urine:
                                                                  1,348 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -753 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   FiO2: 60%
   RSBI: 27
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, No(t) Distant), No(t) S3,
   No(t) S4, No(t) Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : Over Left lung)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   154 K/uL
   10.0 g/dL
   113 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   10 mg/dL
   106 mEq/L
   138 mEq/L
   29.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2187-5-16**]  03:12 AM
                             [**2187-5-16**]  10:56 AM
                             [**2187-5-17**]  03:41 AM
   WBC
   8.3
   7.4
   Hct
   32.6
   29.7
   Plt
   162
   154
   Cr
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   100
   113
   Other labs: PT / PTT / INR:13.2/28.4/1.1, CK / CKMB /
   Troponin-T:175/4/<0.01, ALT / AST:[**11-21**], Alk Phos / T Bili:70/0.4,
   Albumin:3.4 g/dL, LDH:257 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:1.4
   mg/dL
   Imaging:  CT Head;
   IMPRESSION:
   1. No acute intracranial process identified, with the [**Doctor Last Name 734**]-white matter
   differentiation preserved.
   2. Age inappropriate parenchymal volume loss.
   Microbiology: Sputum: Budding Yeast
   No Blood Culture
   Assessment and Plan
   Impression and Plan:  54 yof with unclear PMH presented to ER with
   unresponsiveness in setting of unclear drug overdose.
   .
   # Drug overdose - unclear what medication patient took, tox screen
   positive for benzo and opiate which patient does take at home and may
   have mistaken.  Unclear what medication caused bradycardia which was
   observed enroute to the ER but as per toxicology may have been [**2-3**] to
   opiates as per toxicology.
   - Appreciate toxicology recs.
   - No further sinus pasuses by telemetry
   - LFT's stable, no gap, no other signs of toxicity
   - Call out to floor on telemetry
   - ?Checking levels of drugs and utility of this now 48 hours s/p
   ingestion
   .
   # Bradycardia
 Unclear how bradycardic patient was enroute to ER.  On
   presentation to the ICU, she had two episodes of pause on tele lasting
   2.5 sec and 5.9 sec.  [**Month (only) 60**] have been from atenolol ingestion or possibly
   opiates.  She may have sinus dysfunction at baseline and may be having
   pauses with increased vagal tone during sleep.
   -          repeat cardiac enzymes stable.
   .
   # Respiratory Failure - intubated in the ER for airway protection,
   unclear if she aspirated during charcoal administration.  Currenly able
   to answer questions and is awake.
   - Has tolerated extubation, but is persistently requiring oxygen -
   attempt to wean today
   - CXR mildly worse, and patient with crackles on exam - likely [**2-3**]
   aspiration, or mild increase pulm edema due to hypertension.
   - Will withhold antibiotics for now and monitor clinically if spikes a
   temp or has other signs or symptoms of aspiration would cover for
   aspiration PNA.  Still no fever/leukocytosis to suggest pneumonia.
   .
   #Psych: Will likely need inpatient psych admission.  1:1 sitter for
   now.  Further history to be obtained now that she is more stable.
   - Repeat head CT w/ age inappropriate volume loss but no acute process
   - recommend further evaluation as outpatient.
   - TSH folate normal, RPR pending.
   - Contact PCP today for further history and medication
   - Appreciate Psych rec's and help with med list yesterday.
   .
   #Hypertension: Need to avoid nodal agents.  Started ACE this AM.  [**Month (only) 60**]
   be component of withdrawal to symptoms although family denies etoh
   abuse.  Clarify further with PCP, [**Name Initial (NameIs) **].
   - Monitor closely for withdrawal - narcotic or benzo.
   - HR stable in low 60's, could consider restarting low-dose
   beta-blocker with short acting [**Doctor Last Name **] such as metoprolol or test dose of
   esmolol followed by PO medication.
   .
   # FEN - sips - advance to clears.
   .
   # ppx - sc heparin, PPI (home med)
   .
   # code - presumed full
   .
   # dispo - ICU
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2187-5-15**] 11:57 PM
   18 Gauge - [**2187-5-15**] 11:59 PM
   20 Gauge - [**2187-5-15**] 11:59 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-05-17 10:58:00 Physician Attending Progress Note
Chief Complaint: unresponsiveness/bradycardia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   54 yo F w/ depression and prior suicide attempt 25 yrs ago presents
   unresponsive with bradycardia in setting of drug overdose (benzos and
   opiate + tox)
   24 Hour Events:
 EKG - At [**2187-5-16**] 08:00 AM
 INVASIVE VENTILATION - STOP [**2187-5-16**] 09:00 AM
   pysch c/s appreciated
      additional records obtained--hx of htn (takes atenolol) and
   depression, not bipolar
   1:1 sitter, holding pysch meds
   repeat head ct
 age inappropriate parenchymal loss, no acute process
   htn overnight--po captopril 12.5
  50
iv enalopril X 1 with improvement
   History obtained from Patient, ho
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-5-17**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2187-5-17**] 08:20 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-5-17**] 10:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.5
   HR: 73 (63 - 81) bpm
   BP: 165/99(114) {149/80(96) - 186/109(130)} mmHg
   RR: 18 (11 - 23) insp/min
   SpO2: 95% RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                    595 mL
                                                                  1,095 mL
   PO:
                                                                    220 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    375 mL
                                                                    945 mL
   Blood products:
   Total out:
                                                                  1,348 mL
                                                                    685 mL
   Urine:
                                                                  1,348 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -753 mL
                                                                    410 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///26/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL, asym
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   b/b)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to:
   appropriate Oriented (to): X 3, Movement: Purposeful, No(t) Sedated,
   No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   154 K/uL
   113 mg/dL
   0.6 mg/dL
   26 mEq/L
   3.7 mEq/L
   10 mg/dL
   106 mEq/L
   138 mEq/L
   29.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2187-5-16**]  03:12 AM
                             [**2187-5-16**]  10:56 AM
                             [**2187-5-17**]  03:41 AM
   WBC
   8.3
   7.4
   Hct
   32.6
   29.7
   Plt
   162
   154
   Cr
   0.7
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   100
   113
   Other labs: PT / PTT / INR:13.2/28.4/1.1, CK / CKMB /
   Troponin-T:175/4/<0.01, ALT / AST:[**11-21**], Alk Phos / T Bili:70/0.4,
   Albumin:3.4 g/dL, LDH:257 IU/L (260), Ca++:8.3 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.4 mg/dL
   Fluid analysis / Other labs: rpr neg
   tsh/folate wnl
   Imaging: CT head parenchymal vol loss, no acute process
   cxr--reslving infiltrate at R mid zone, increased interstitial marking
   L, diff penetration
   Microbiology: u/a yeast
   Assessment and Plan
   54 yo F w/ htn, depression, and prior suicide attempt 25 yrs ago
   presents unresponsive with bradycardia in setting of drug overdose
   (benzos and opiate + tox)
   # Drug overdose
   tox screen + for benzo and opiate
   more alert/appropriate, denies SI
   - home meds obtained from pharmacy and home psychiatrist
   - psych c/s appreciated
   - monitoring, but showing no evidence of withdrawal symptoms (chronic
   benzo use and opiate use, family and osh psych denies etoh)
             Isolated htn overnight with hx of htn
   - continue 1:1 sitter
   # Bradycardia
(pt also takes atenolol at home, ? atenolol ingestion
   contributing to presentation
   decreased frequency  of sinus pauses, remains hd stable, no qts
   prolongation
   -continue tele monitoring
   # ? aspiration
 (unclear if she aspirated during charcoal
   administration)
   Remains asx and  af with stable O2 sats on RA, normal wbc ct
   monitor cxr
infiltrate resolving, likely pneumonitis/edema
   cover  if spikes a temp or has other signs or symptoms concerning for
   pna
   d/c ivf fluids
   # HTN
   Holding BB given bradycardia on admit and ? atenolol ingestion
   less concerned of withdrawal as isolated htn with htn hx
   -Titrate captolpril for BP control
   -monitor  cr
   ICU Care
   Nutrition:
   Comments: advance diet, d/c ivf
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2187-5-15**] 11:57 PM
d/c central line, foley
   18 Gauge - [**2187-5-15**] 11:59 PM
   20 Gauge - [**2187-5-15**] 11:59 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI (home med)
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  get OOB
chair
   Transfer to med floor with 1 :1 and tele,  plans for inpt psych admit
   following med clearance,
   Total time spent: 40 minutes

2187-05-18 06:58:00 Physician Resident Progress Note
Chief Complaint: Polypharmacy/Overdose
   24 Hour Events:
 MULTI LUMEN - STOP [**2187-5-17**] 03:47 PM
   - hypertensive to 200s systolic, tried enalapril with minimal success,
   patient remained asymptomatic throughout all of this and was never
   agitated or anxious so less likely BZD or ETOH withdrawal. Placed her
   on labetalol gtt overnight carefully monitoring her HR given her pauses
   before
   - no new psych recs
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 3 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-5-17**] 08:20 AM
   Heparin Sodium (Prophylaxis) - [**2187-5-17**] 02:22 PM
   Hydralazine - [**2187-5-18**] 06:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-5-18**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.5
C (99.5
   HR: 68 (59 - 79) bpm
   BP: 175/109(123) {152/82(101) - 208/166(175)} mmHg
   RR: 20 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,960 mL
                                                                    214 mL
   PO:
                                                                    780 mL
             TF:
   IVF:
                                                                  1,180 mL
                                                                    214 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    400 mL
   Urine:
                                                                  1,535 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    425 mL
                                                                   -186 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese
   Eyes / Conjunctiva: PERRL, Pupils dilated
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   , Crackles : sparse)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   154 K/uL
   10.0 g/dL
   125 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.5 mEq/L
   8 mg/dL
   107 mEq/L
   139 mEq/L
   29.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2187-5-16**]  03:12 AM
                             [**2187-5-16**]  10:56 AM
                             [**2187-5-17**]  03:41 AM
                             [**2187-5-17**]  01:58 PM
   WBC
   8.3
   7.4
   Hct
   32.6
   29.7
   Plt
   162
   154
   Cr
   0.7
   0.6
   0.6
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   100
   113
   125
   Other labs: PT / PTT / INR:13.2/28.4/1.1, CK / CKMB /
   Troponin-T:175/4/<0.01, ALT / AST:[**11-21**], Alk Phos / T Bili:70/0.4,
   Albumin:3.4 g/dL, LDH:257 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:0.9
   mg/dL
   Imaging: No New Imaging
   Microbiology: Sputum: 1+ budding yeast
   RPR: Negative
   Assessment and Plan
   Impression and Plan:  54 yof with unclear PMH presented to ER with
   unresponsiveness in setting of unclear drug overdose.
   .
   # Drug overdose - unclear what medication patient took, tox screen
   positive for benzo and opiate which patient does take at home and may
   have mistaken.  Unclear what medication caused bradycardia which was
   observed enroute to the ER but as per toxicology may have been [**2-3**] to
   opiates as per toxicology.
   - Appreciate toxicology recs.
   - Short sinus pauses overnight of 2 seconds.  Now with low normal sinus
   rhythm.
   - LFT's stable, no gap, no other signs of toxicity
   - Called out to floor on telemetry yesterday but hypertensive
   overnight.
   .
   # Bradycardia
 Unclear how bradycardic patient was enroute to ER.  On
   presentation to the ICU, she had two episodes of pause on tele lasting
   2.5 sec and 5.9 sec.  [**Month (only) 60**] have been from atenolol ingestion or possibly
   opiates.  She may have sinus dysfunction at baseline and may be having
   pauses with increased vagal tone during sleep.
   - Cardiac Enzymes negative.
   - Tolerating labetalol gtt overnight for hypertensive urgency.  Would
   transition to PO labetalol today for BP control.
   .
   # Respiratory Failure - intubated in the ER for airway protection,
   unclear if she aspirated during charcoal administration.  Currenly able
   to answer questions and is awake.
   - Has tolerated extubation, but is persistently requiring oxygen -
   attempt to wean today
   - CXR mildly worse, and patient with crackles on exam - likely [**2-3**]
   aspiration, or mild increase pulm edema due to hypertension.
   - Will withhold antibiotics for now and monitor clinically if spikes a
   temp or has other signs or symptoms of aspiration would cover for
   aspiration PNA.  Still no fever/leukocytosis to suggest pneumonia.
   .
   #Psych: Will likely need inpatient psych admission.  1:1 sitter for
   now.  Further history to be obtained now that she is more stable.
   - Repeat head CT w/ age inappropriate volume loss but no acute process
   - recommend further evaluation as outpatient.
   - TSH folate normal, RPR negative.
   - Contact PCP today for further history and medication
   - Appreciate Psych rec's and help with med list.
   .
   #Hypertension: Previously only on atenolol for BP control so need for
   multiple agents suggests component of withdrawal.  Would restart home
   MS contin dose given lower back pain.
   - Monitor closely for withdrawal - narcotic or benzo.
   - Started on labetalol gtt overnight - transition to oral regimen
   today.
   - HR stable in low 60's,
   - Started captopril 50 TID and amlodipine 10mg
   - Add norvasc for BP control PRN.
   .
   #Pain: lower back, chronic and [**2-3**] bed, no flank discoloration c/w RP
   bleed and Hct stable - await AM labs.
   - Restarted low dose oxycontin PRN.
   .
   #Electrolytes: Started on standing phos repletion yesterday PM.
   .
   # FEN - sips - advance to clears.
   .
   # ppx - sc heparin, PPI (home med)
   .
   # code - presumed full
   .
   # dispo - ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-5-17**] 04:52 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-05-18 10:42:00 Physician Attending Progress Note
Chief Complaint: drug od
   HPI:  54 yo F w/ depression and prior suicide attempt 25 yrs ago
   presents unresponsive with bradycardia in setting of drug overdose
   (benzos and opiate + tox)
   24 Hour Events:
 MULTI LUMEN - STOP [**2187-5-17**] 03:47 PM
   hypertensive to 200's/100--asx and not tachy--labetolol gtt started
   repleting phos
   nausea and emesis
   History obtained from Patient, ho
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Labetalol - 4 mg/min
   Other ICU medications:
   Hydralazine - [**2187-5-18**] 06:25 AM
   Pantoprazole (Protonix) - [**2187-5-18**] 08:36 AM
   Heparin Sodium (Prophylaxis) - [**2187-5-18**] 08:36 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-5-18**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.3
C (99.1
   HR: 71 (59 - 75) bpm
   BP: 163/95(112) {143/72(90) - 208/166(175)} mmHg
   RR: 24 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,960 mL
                                                                    812 mL
   PO:
                                                                    780 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,180 mL
                                                                    572 mL
   Blood products:
   Total out:
                                                                  1,535 mL
                                                                    950 mL
   Urine:
                                                                  1,535 mL
                                                                    900 mL
   NG:
   50 mL
   Stool:
   Drains:
   Balance:
                                                                    425 mL
                                                                   -138 mL
   Respiratory support
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   decreased)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: verbals
   Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   154 K/uL
   154 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.6 mEq/L
   7 mg/dL
   107 mEq/L
   137 mEq/L
   29.7 %
   7.4 K/uL
        [image002.jpg]
                             [**2187-5-16**]  03:12 AM
                             [**2187-5-16**]  10:56 AM
                             [**2187-5-17**]  03:41 AM
                             [**2187-5-17**]  01:58 PM
                             [**2187-5-18**]  06:08 AM
   WBC
   8.3
   7.4
   Hct
   32.6
   29.7
   Plt
   162
   154
   Cr
   0.7
   0.6
   0.6
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   100
   113
   125
   154
   Other labs: PT / PTT / INR:13.2/28.4/1.1, CK / CKMB /
   Troponin-T:175/4/<0.01, ALT / AST:[**11-21**], Alk Phos / T Bili:70/0.4,
   Albumin:3.4 g/dL, LDH:257 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:1.0
   mg/dL
   Fluid analysis / Other labs: rpr neg
   Imaging: no new imaging
   Microbiology: no new data
   sputum 1 + yeast
   Assessment and Plan
   54 yo F w/ htn, depression, and prior suicide attempt 25 yrs ago
   presents unresponsive with bradycardia in setting of drug overdose
   (benzos and opiate + tox), remains in icu with difficult to control htn
    # htn
takes atenolol, though now requiring multiple agents for
   control--? withdrawal sx's--not tachy, but also with n/v vs,  ? rebound
   htn after holding BB
   -resume low dose ms contin for chronic pain
   -restart low dose, short acting benzo--ativan
   - discuss with psych regarding resuming celexa as takes 60 daily at
   home and may be withdraw sx
   - transition to labetolol PO and transition off gtt
   - continue captopril norvasc until bp betetr controlled)
   # n/v--? Withdrawal
   No abd pain
   Restart low dose opiates (ms contin)
   If persists
check a/l, lfts
   # Drug overdose
   tox screen + for benzo and opiate
   more alert/appropriate, denies SI
   psych following
   continue 1:1 sitter
   transition to inpt psych stay after med issues stabilized
    # Bradycardia
resolvied, tolerating labetolol
   -continue tele monitoring
   # ? aspiration
 (unclear if she aspirated during charcoal
   administration)
   Remains asx and  af with stable O2 sats on RA, normal wbc ct
   # chronic LBP
   restart MS [**First Name (Titles) **]
[**Last Name (Titles) **]ICU Care
   Nutrition:
   Comments: advance diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-5-17**] 04:52 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
once  bp stable off drip
   Total time spent: 40 minutes

2187-05-19 07:17:00 Physician Resident Progress Note
Chief Complaint: Polysubstance Overdose
   24 Hour Events:
 CALLED OUT
   - Off labetalol gtt in PM after increase in her captopril to 100 TID,
   and PO labetalol to 400 [**Hospital1 **].
   - Did not restart psych meds.
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2187-5-18**] 08:36 AM
   Heparin Sodium (Prophylaxis) - [**2187-5-18**] 08:36 AM
   Hydralazine - [**2187-5-19**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-5-19**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.2
C (99
   HR: 63 (59 - 71) bpm
   BP: 133/59(77) {110/46(61) - 172/96(116)} mmHg
   RR: 20 (15 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,786 mL
                                                                     95 mL
   PO:
                                                                    780 mL
                                                                     60 mL
   TF:
   IVF:
                                                                  1,006 mL
                                                                     35 mL
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                      0 mL
   Urine:
                                                                  2,075 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -339 mL
                                                                     95 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///20/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Pupils slightly assymetric, but reactive (R-more
   dilated)
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4, No(t)
   Rub, (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : slight at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   292 K/uL
   10.1 g/dL
   104 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.4 mEq/L
   7 mg/dL
   109 mEq/L
   136 mEq/L
   29.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2187-5-16**]  03:12 AM
                             [**2187-5-16**]  10:56 AM
                             [**2187-5-17**]  03:41 AM
                             [**2187-5-17**]  01:58 PM
                             [**2187-5-18**]  06:08 AM
                             [**2187-5-18**]  11:16 AM
                             [**2187-5-19**]  05:05 AM
   WBC
   8.3
   7.4
   6.7
   4.6
   Hct
   32.6
   29.7
   31.1
   29.9
   Plt
   162
   154
   276
   292
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   100
   113
   125
   154
   145
   104
   Other labs: PT / PTT / INR:13.2/28.4/1.1, CK / CKMB /
   Troponin-T:175/4/<0.01, ALT / AST:[**11-21**], Alk Phos / T Bili:70/0.4,
   Differential-Neuts:83.0 %, Band:3.0 %, Lymph:14.0 %, Mono:0.0 %,
   Eos:0.0 %, Albumin:3.4 g/dL, LDH:257 IU/L, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Imaging: No New.
   Microbiology: No New
   Assessment and Plan
   Impression and Plan:  54 yof with unclear PMH presented to ER with
   unresponsiveness in setting of unclear drug overdose.
   .
   #Hypertension: Previously only on atenolol for BP control so need for
   multiple agents suggests component of withdrawal although patient w/o
   tachycardia (on beta-blocker), diaphoresis, nausea/vomiting, tremor,
   anxiety to suggest benzo/opiate withdrawall.  Have restarted home MS
   contin dose given lower back pain at 1/2 dose.  Pain well controlled.
   Restart low dose benzo's today as trial for BP control
 hold AM
   labetalol.  If BP responds to benzodiazepines would consider further
   replacement .
   - Monitor closely for withdrawal - narcotic or benzo.
   - Tolerating PO labetalol well at this time
   - HR stable in low 60's,
   - captopril 100 TID and amlodipine 5mg
   - d/c hydral yesterday as well controlled on above. Change to long
   acting ACE when stable.
   .
   # Drug overdose - unclear what medication patient took, tox screen
   positive for benzo and opiate which patient does take at home and may
   have mistaken.  Unclear what medication caused bradycardia which was
   observed enroute to the ER but as per toxicology may have been [**2-3**] to
   opiates as per toxicology.  Does take atenolol as outpatient so likely
   component.
   - Appreciate toxicology recs.
   - Short sinus pauses earlier.
   - Now with low normal sinus rhythm.
   - LFT's stable, no gap, no other signs of toxicity
   .
   # Bradycardia
 Unclear how bradycardic patient was enroute to ER.  On
   presentation to the ICU, she had two episodes of pause on tele lasting
   2.5 sec and 5.9 sec.  [**Month (only) 60**] have been from atenolol ingestion or possibly
   opiates.  She may have sinus dysfunction at baseline and may be having
   pauses with increased vagal tone during sleep.
   - Cardiac Enzymes negative.
   - Tolerating labetalol gtt overnight for hypertensive urgency.  Now off
   gtt and on PO labetalol w/o further sinus pauses last 12-24 hours.
   .
   # Respiratory - intubated in the ER for airway protection, likely
   aspirated during charcoal administration.
   - Has tolerated extubation, and is now on room air.
   - CXR mildly worse, and patient with crackles on exam initially that
   have resolved - likely [**2-3**] aspiration, or mild increase pulm edema due
   to hypertension.
   - Will withhold antibiotics for now and monitor clinically if spikes a
   temp or has other signs or symptoms of aspiration would cover for
   aspiration PNA.  Still no fever/leukocytosis to suggest pneumonia.
   .
   #Psych: Will likely need inpatient psych admission.  1:1 sitter for
   now.  Further history to be obtained now that she is more stable.
   - Repeat head CT w/ age inappropriate volume loss but no acute process
   - recommend further evaluation as outpatient.
   - TSH folate normal, RPR negative.
   - Appreciate Psych rec's and help with med list.
   - Holding outpatient psych meds for now.
   - MRI brain today for ? atrophy given persistent cognitive impairment
   clarify with family regarding baseline mental status.
   .
   #Pain: lower back, chronic and [**2-3**] bed, no flank discoloration c/w RP
   bleed and Hct stable - await AM labs.
   - Restarted low dose MS-contin yesterday.
   .
   #Electrolytes: Follow with daily labs.
   .
   # FEN - regular heart healthy diet today.
   .
   #Activity: PT Consult.
   # ppx - sc heparin, PPI (home med)
   .
   # code - presumed full
   .
   # dispo - Floor today.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2187-5-18**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2187-05-19 09:38:00 Physician Attending Progress Note
Chief Complaint: opiate/benzo overdose
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  54 yo F w/ depression and prior suicide attempt 25 yrs ago
   presents unresponsive with bradycardia in setting of drug overdose
   (benzos and opiate + tox) now with htn and n/v, ? withdrawal
   24 Hour Events:
 CALLED OUT
   transitioned to PO labetolol, captopril dose increased, norvasc--> off
   labetolol gtt
   restarted opiates, received1 dose benzo,
   continued to hold additional pysch meds
   History obtained from Patient, ho
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Hydralazine - [**2187-5-19**] 12:15 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2187-5-19**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 62 (59 - 69) bpm
   BP: 149/77(93) {110/46(61) - 172/96(116)} mmHg
   RR: 14 (14 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
             Total In:
                                                                  1,786 mL
                                                                    226 mL
   PO:
                                                                    780 mL
                                                                    180 mL
   TF:
   IVF:
                                                                  1,006 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                  2,125 mL
                                                                      0 mL
   Urine:
                                                                  2,075 mL
   NG:
                                                                     50 mL
   Stool:
   Drains:
   Balance:
                                                                   -339 mL
                                                                    226 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///20/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : scant)
   Abd soft nt nd + bs
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: normal
   Labs / Radiology
   10.1 g/dL
   292 K/uL
   104 mg/dL
   0.5 mg/dL
   20 mEq/L
   3.4 mEq/L
   7 mg/dL
   109 mEq/L
   136 mEq/L
   29.9 %
   4.6 K/uL
        [image002.jpg]
                             [**2187-5-16**]  03:12 AM
                             [**2187-5-16**]  10:56 AM
                             [**2187-5-17**]  03:41 AM
                             [**2187-5-17**]  01:58 PM
                             [**2187-5-18**]  06:08 AM
                             [**2187-5-18**]  11:16 AM
                             [**2187-5-19**]  05:05 AM
   WBC
   8.3
   7.4
   6.7
   4.6
   Hct
   32.6
   29.7
   31.1
   29.9
   Plt
   162
   154
   276
   292
   Cr
   0.7
   0.6
   0.6
   0.5
   0.5
   0.5
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   100
   113
   125
   154
   145
   104
   Other labs: PT / PTT / INR:13.2/28.4/1.1, CK / CKMB /
   Troponin-T:175/4/<0.01, ALT / AST:[**11-21**], Alk Phos / T Bili:70/0.4,
   Differential-Neuts:83.0 %, Band:3.0 %, Lymph:14.0 %, Mono:0.0 %,
   Eos:0.0 %, Albumin:3.4 g/dL, LDH:257 IU/L, Ca++:8.3 mg/dL, Mg++:1.9
   mg/dL, PO4:2.5 mg/dL
   Imaging: no new imaging
   Microbiology: no new data
   Assessment and Plan
   54 yo F w/ htn, depression, and prior suicide attempt 25 yrs ago
   presents unresponsive with bradycardia in setting of drug overdose
   (benzos and opiate + tox), remains in icu with difficult to control
   htn, n/v/ ? withdrawal
   Primary issues include:
    # htn
takes atenolol, though now requiring multiple agents for
   control--? Withdrawal (but not tachy or agitated, +  n/v) vs,  ?
   rebound htn after holding BB
   --off gtt labetolol with improved control
   - continue oral bp reg with short acting meds + low dose ms contin for
   chronic pain
   - restart low dose valium
   -reassess for antihtn requirements in setting of  ? withdrawal
   - discuss with psych regarding resuming celexa as takes 60 daily at
   home and may be withdraw sx
   # n/v--? Withdrawal
   Resolving this am
   No abd pain
   Continue low dose opiates (ms contin)
   Check a /l lfts
   Recheck cxr
   ecg
   # delirium--? Dementia
   initially attributed to od, improving and now  alert and oriented but
   still with deficit-- unclear baseline function
   Ct head
 w/o acute abnl but showed age-inapprop changes
   Would check mri (not urgent)
   Consider neuro psych eval once medical issues optimized
   # Drug overdose--? Suicide attempt
   psych following
   continue 1:1 sitter
   transition to inpt psych stay after med issues stabilized
   # Bradycardia
resolved, tolerating labetolol
   # ? aspiration
 (unclear if she aspirated during charcoal
   administration)
   Remains asx and  af with stable O2 sats on RA, normal wbc ct
   # chronic LBP
   restart MS [**First Name (Titles) **]
[**Last Name (Titles) **]ICU Care
   Nutrition:
   Comments: po diet as tolerates
   Glycemic Control:  Comments: not required
   Lines:
   20 Gauge - [**2187-5-18**] 11:30 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : stable for transfer to floor/PT c/s
   Total time spent: 40 minutes